US09227985B2
Step 1. (4S)-9-Bromo-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
A solution of (4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (2.50 g, 7.18 mmol) in tetrahydrofuran (47 mL) was treated with N-bromosuccinimide (1.40 g, 7.89 mmol) and stirred at room temperature for 1 h, at which time the reaction mixture was treated with additional N-bromosuccinimide (0.70 g, 3.93 mmol) and stirred at 45° C. for 3 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by flash column chromatography (50% ethyl acetate/hexanes to 100% ethyl acetate) gave the desired product (3.0 g, 98%) as a single enantiomer. LCMS calculated for C19H16BrN4O3 (M+H)+: m/z=427.1, 429.1. found: 426.8, 428.8.

reactant | (4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 7.18 mmol, 2.50 g | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(N2)=O)C | C19H16N4O3
reactant | N-bromosuccinimide | 7.89 mmol, 1.40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 3.93 mmol, 0.70 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 47 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S)-9-Bromo-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 3.0 g, 98% | BrC=1C=C(C2=C3N([C@H](CO2)C2=NC=CC=C2)C(NC13)=O)C=1C(=NOC1C)C | C19H15BrN4O3
